US07572809B2
Similar procedure as described in example 376 was used, starting from (1,5-Dichloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and isopropanol to give (5-Chloro-1-isopropoxy-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS: m/e 377 (MH+).

reactant | (1,5-Dichloro-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C(=C(C=C12)OC)OC)Cl)NC1=NNC(=C1)C | C15H14Cl2N4O2
solvent | isopropanol | C(C)(C)O | C3H8O
product | (5-Chloro-1-isopropoxy-6,7-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=C2C=C(N=C(C2=CC(=C1OC)OC)OC(C)C)NC1=NNC(=C1)C | C18H21ClN4O3
